US05143920
3-Butyryl-4-(4-hydroxy-2-methylphenylamino)-8-methoxyquinoline (2.0 g, 5.7 mmol) was suspended in pyridine (25 ml), isobutyryl choride (5 ml) added, and the mixture stirred for 17 hours at room temperature; the solid rapidly dissolved to give a clear solution. The pyridine was evaporated, and the residue taken up in dichloromethane and washed with aqueous sodium bicarbonate and brine, dried and evaporated. Recrystallisation from isopropyl ether gave 3-butyryl-4-(4-isobutyryloxy-2-methylphenylamino)-8-methoxyquinoline (0.87 g, 36%), m.p. 123°-125°.

reactant | 3-Butyryl-4-(4-hydroxy-2-methylphenylamino)-8-methoxyquinoline | 5.7 mmol, 2.0 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=C(C=C1)O)C)OC | C21H22N2O3
reactant | isobutyryl choride | 5 ml | C(C(C)C)(=O)Cl | C4H7ClO
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | 3-butyryl-4-(4-isobutyryloxy-2-methylphenylamino)-8-methoxyquinoline | 0.87 g, 36% | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=C(C=C1)OC(C(C)C)=O)C)OC | C25H28N2O4
